US04990633
Preparation of 1,2-bis-(4-[2(4-hydroxyphenyl)prop-2-yl]phenoxy)-3,3,4,4,5,5-hexafluorocyclopent -1-ene
45.6 of bisphenol A (0.2 mol) were dissolved in 100 ml of methanol with warming and 36 g of a 30% strength by weight sodium methoxide solution were added. The mixture was evaporated to dryness on a rotary evaporator, 61 g of monosodium bisphenol A remaining. This was dissolved in 100 ml of dimethylformamide, 21.2 g of perfluorocyclopentene (0.1 mol) were added at 5° C. in the course of 60 minutes, then the mixture was warmed to room temperature and stirred at room temperature for 18 hours. It was then warmed to 70° C. for 2 hours. The mixture was then stirred into 200 ml of water and the organic phase was separated off. The latter was taken up in methylene chloride, and the solution was washed with 100 ml of water, then with 50 ml of 5% strength by weight hydrochloric acid and then again with 100 ml of water and then dried. After stripping off the solvent on a rotary evaporator and drying in the vacuum of an oil pump at 100° C., 53 g of a glass-like, transparent residue remained, which corresponds to 90.7% of theory. The 19F nuclear magnetic resonance spectrum showed characteristic bands at δ=-36.1 ppm and at δ=-51.5 ppm, measured against trifluoroacetic acid as external standard.

reactant | bisphenol A | 0.2 mol | OC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)O | C15H16O2
reactant | sodium methoxide | C[O-].[Na+]
reactant | perfluorocyclopentene | 0.1 mol, 21.2 g | FC1=C(C(C(C1(F)F)(F)F)(F)F)F | C5F8
reactant | water | 200 ml | O | H2O
solvent | methanol | 100 ml | CO | CH4O
product | 1,2-bis-(4-[2(4-hydroxyphenyl)prop-2-yl]phenoxy)-3,3,4,4,5,5-hexafluorocyclopent -1-ene | OC1=CC=C(C=C1)C(C)(C)C1=CC=C(OC2=C(C(C(C2(F)F)(F)F)(F)F)OC2=CC=C(C=C2)C(C)(C)C2=CC=C(C=C2)O)C=C1 | C35H30F6O4
